US06653313B2
A mixture of dimethyl 2-[2-(2-{[4-(tert-butoxycarbonyl)-1-piperazinyl]carbonyl}phenyl)ethyl]-4-(2,6-dichlorophenyl)-6-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-1,4-dihydro-3,5-pyridinedicarboxylate (368 mg/0.41 mmol) and 2N HCl aqueous solution (8 ml/16 mmol) was refluxed for 2 hours. After cooling down, the mixture was basitified with saturated NaHCO3 aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on NH2 gel (CH2Cl2:MeOH=200:1-20:1) to afford dimethyl 4-(2,6-dichlorophenyl)-2-{2-[4-(8-methyl-8-azabicyclo [3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-6-{2-[2-(1-piperazinylcarbonyl)phenyl]ethyl}-1,4-dihydro-3,5-pyridinedicarboxylate as a yellow amorphous.

reactant | dimethyl 2-[2-(2-{[4-(tert-butoxycarbonyl)-1-piperazinyl]carbonyl}phenyl)ethyl]-4-(2,6-dichlorophenyl)-6-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-1,4-dihydro-3,5-pyridinedicarboxylate | 0.41 mmol, 368 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(C=CC=C1)CCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)N1CCN(CC1)C1CC2CCC(C1)N2C | C47H60Cl2N6O8
reactant | HCl | 16 mmol, 2N, 8 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | dimethyl 4-(2,6-dichlorophenyl)-2-{2-[4-(8-methyl-8-azabicyclo [3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-6-{2-[2-(1-piperazinylcarbonyl)phenyl]ethyl}-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)C(=O)N1CCNCC1)CC(=O)N1CCN(CC1)C1CC2CCC(C1)N2C)C(=O)OC | C42H52Cl2N6O6
